US04174405
2,3-Di-p-anisyl-5-p-tolylthiophene
In a 1-liter stainless steel autoclave equipped with stirrer were placed 40.6 g (0.105 mole) of 1,2-di-p-anisyl-4-p-tolylbutene-1,4-dione, 100 ml of xylene and 25 g (0.056 mole) of phosphorus pentasulfide. The vessel was chilled with a Dry Ice-acetone bath and charged with 130 g (3.81 moles) of hydrogen sulfide. The autoclave was then heated with stirring for 215 minutes at 158°-165° C. (1250-1360 psig). After cooling the vessel, the hydrogen sulfide was allowed to vent into a sodium hydroxide solution. The residue was treated with 150 ml of absolute ethanol to destroy unreacted phosphorus pentasulfide. After removal of the ethanol there remained 70.5 g of crude product. Recrystallization from ethanol-dioxane (70:30) gave 20 g (49.3%) of pure 2,3-di-p-anisyl-5-p-tolythiophene, m.p. 99°-102° C. and a second crop of 6.5 g (16.0%) m.p. 92°-96° C.

reactant | 1,2-di-p-anisyl-4-p-tolylbutene-1,4-dione | 0.105 mole, 40.6 g | C(C1=CC=C(C=C1)OC)C(C(=CC(=O)C1=CC=C(C=C1)C)CC1=CC=C(C=C1)OC)=O | C27H26O4
reactant | phosphorus pentasulfide | 0.056 mole, 25 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | hydrogen sulfide | 3.81 moles, 130 g | S | H2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,3-Di-p-anisyl-5-p-tolylthiophene | C(C1=CC=C(C=C1)OC)C=1SC(=CC1CC1=CC=C(C=C1)OC)C1=CC=C(C=C1)C | C27H26O2S
